US07994171B2
5-(5-(1-(4,6-dimethylpyrimidin-2-yl)cyclopropycarbamoyl)-2-methylphenyl)-4-fluoro-2-(4-fluorophenyl)-N-methylbenzofuran-3-carboxamide.
To a mixture of 3-(4-fluoro-2-(4-fluorophenyl)-3-(methylcarbamoyl)benzofuran-5-yl)-4-methylbenzoic acid (50 mg, 0.12 mmol), crude 1-(4,6-dimethylpyrimidin-2-yl)cyclopropanamine (150 mg) in 2 ml DMF at room temperature was added BOP (106 mg, 0.24 mmol, 2.0 eq.) and triethyl amine (0.050 ml, 0.36 mmol, 3.0 eq.), and the mixture stirred overnight under an N2 atmosphere. The mixture was poured into crushed ice, and solid precipitate was filtered and dried. The product obtained was further purified by column chromatography using Silica gel (230-400) and CHCl3-MeOH (95:5) as a mobile phase. Yield: 40 mg (60%). 1H NMR (400 MHz, CDCl3): δ 8.00-7.97 (m, 2H), 7.80-7.76 (m, 2H), 7.41-7.37 (m, 3H), 7.21-7.15 (m, 3H), 6.77 (s, 1H), 6.22 (br. s., 1H), 3.01 (d, J=5.0 Hz, 3H), 2.37 (s, 6H), 2.26 (s, 3H), 1.76-1.73 (m, 2H), 1.56-1.54 (m, 2H). 19F NMR (376.57 MHz, CDCl3): δ−109.83, −119.22 LCMS: (ES+) m/z=567.2 (M+H)+

reactant | 3-(4-fluoro-2-(4-fluorophenyl)-3-(methylcarbamoyl)benzofuran-5-yl)-4-methylbenzoic acid | 0.12 mmol, 50 mg | FC1=C(C=CC2=C1C(=C(O2)C2=CC=C(C=C2)F)C(NC)=O)C=2C=C(C(=O)O)C=CC2C | C24H17F2NO4
reactant | 1-(4,6-dimethylpyrimidin-2-yl)cyclopropanamine | 150 mg | CC1=NC(=NC(=C1)C)C1(CC1)N | C9H13N3
reactant | BOP | 0.24 mmol, 106 mg, 2.0 eq. | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | triethyl amine | 0.36 mmol, 0.050 ml, 3.0 eq. | C(C)N(CC)CC | C6H15N
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
product | 5-(5-(1-(4,6-dimethylpyrimidin-2-yl)cyclopropycarbamoyl)-2-methylphenyl)-4-fluoro-2-(4-fluorophenyl)-N-methylbenzofuran-3-carboxamide | CC1=NC(=NC(=C1)C)C1(CC1)NC(=O)C=1C=CC(=C(C1)C=1C=CC2=C(C(=C(O2)C2=CC=C(C=C2)F)C(=O)NC)C1F)C | C33H28F2N4O3
